* c:\users\admin\esim-workspace\battery_comparator\battery_comparator.cir

.include lm_741.sub
.include LED.lib
x1 ? net-_r4-pad2_ net-_r2-pad2_ gnd ? net-_r7-pad2_ net-_c1-pad1_ ? lm_741
r5  net-_r4-pad2_ gnd 10k
r4  net-_r4-pad1_ net-_r4-pad2_ 10k
r6  net-_r6-pad1_ net-_d2-pad2_ 330
c1  net-_c1-pad1_ gnd 100n
d2 gnd net-_d2-pad2_ LED
d1 gnd net-_d1-pad2_ LED
x2 ? net-_r1-pad2_ net-_r4-pad2_ gnd ? net-_r6-pad1_ net-_r4-pad1_ ? lm_741
r1  net-_c1-pad1_ net-_r1-pad2_ 4.7k
r2  net-_r1-pad2_ net-_r2-pad2_ 3.3k
r3  net-_r2-pad2_ gnd 2.2k
r7  net-_d1-pad2_ net-_r7-pad2_ 330
v1  net-_c1-pad1_ gnd 12
v2  net-_r4-pad1_ gnd 12
.tran 10e-06 20e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
